US03957761
In the manner given in Example 7, 1,3-dioxo-2-isoindolineacetic acid, [[N-[2 -(o-chlorobenzoyl)-4-nitrophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide is heated to 100°-110°C with trifluoracetic acid to give 2'-chloro-5-nitro-2-[3-(phthalimidomethyl)-4 H-1,2,4-triazol-4-yl]benzophenone.

reactant | 1,3-dioxo-2-isoindolineacetic acid, [[N-[2 -(o-chlorobenzoyl)-4-nitrophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide | ClC1=C(C(=O)C2=C(C=CC(=C2)[N+](=O)[O-])N(C(CN2C(C3=CC=CC=C3C2=O)=O)=O)C=NNC(CN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1 | C34H21ClN6O9
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2'-chloro-5-nitro-2-[3-(phthalimidomethyl)-4 H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H14ClN5O5
